.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-331
* Inductance = 330nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-600MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-331_freq port1 port2 PARAMS: Cpar=0.47pF Ind=0.36uH
X1 port1 port2 Model1A PARAMS:
+ R1=25
+ R2=0.97
+ C= {Cpar}
+ K1=0.000005
+ K2=0.72
+ K3= {Ind}
+ K4=0.009
+ K5=0.0000013
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9386.573203
.ends 0603HL-331_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-331
* Inductance = 330nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-600MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0603HL-331_imp port1 port2 PARAMS: Cpar=0.397pF Ind=0.36uH
X1 port1 port2 Model1D PARAMS:
+ R1=25
+ R2=0.97
+ C= {Cpar}
+ K1=0.000005
+ K2=0.72
+ K3= {Ind}
+ K4=0.009
+ K5=0.0000013
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9386.573203
.ends 0603HL-331_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-391
* Inductance = 390nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-600MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-391_freq port1 port2 PARAMS: Cpar=0.41pF Ind=0.44uH
X1 port1 port2 Model1A PARAMS:
+ R1=20
+ R2=1.05
+ C= {Cpar}
+ K1=0.000005
+ K2=0.99
+ K3= {Ind}
+ K4=0.015
+ K5=0.0000013
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13668.64861
.ends 0603HL-391_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-391
* Inductance = 390nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-600MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0603HL-391_imp port1 port2 PARAMS: Cpar=0.324pF Ind=0.44uH
X1 port1 port2 Model1D PARAMS:
+ R1=20
+ R2=1.05
+ C= {Cpar}
+ K1=0.000005
+ K2=0.99
+ K3= {Ind}
+ K4=0.015
+ K5=0.0000013
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13668.64861
.ends 0603HL-391_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-471
* Inductance = 470nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-600MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-471_freq port1 port2 PARAMS: Cpar=1.8pF Ind=0.49uH
X1 port1 port2 Model1A PARAMS:
+ R1=12
+ R2=1.15
+ C= {Cpar}
+ K1=0.000005
+ K2=0.52
+ K3= {Ind}
+ K4=0.007
+ K5=0.0000028
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5183.684716
.ends 0603HL-471_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-471
* Inductance = 470nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-600MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0603HL-471_imp port1 port2 PARAMS: Cpar=1.642pF Ind=0.49uH
X1 port1 port2 Model1D PARAMS:
+ R1=12
+ R2=1.15
+ C= {Cpar}
+ K1=0.000005
+ K2=0.52
+ K3= {Ind}
+ K4=0.007
+ K5=0.0000028
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5183.684716
.ends 0603HL-471_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-511
* Inductance = 510nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-511_freq port1 port2 PARAMS: Cpar=0.56pF Ind=0.58uH
X1 port1 port2 Model1A PARAMS:
+ R1=20
+ R2=1.2
+ C= {Cpar}
+ K1=0.00008
+ K2=1
+ K3= {Ind}
+ K4=0.022
+ K5=0.00000115
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12040.20002
.ends 0603HL-511_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-511
* Inductance = 510nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0603HL-511_imp port1 port2 PARAMS: Cpar=0.437pF Ind=0.58uH
X1 port1 port2 Model1D PARAMS:
+ R1=20
+ R2=1.2
+ C= {Cpar}
+ K1=0.00008
+ K2=1
+ K3= {Ind}
+ K4=0.022
+ K5=0.00000115
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12040.20002
.ends 0603HL-511_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-561
* Inductance = 560nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-561_freq port1 port2 PARAMS: Cpar=0.45pF Ind=0.64uH
X1 port1 port2 Model1A PARAMS:
+ R1=35
+ R2=1.35
+ C= {Cpar}
+ K1=0.000005
+ K2=1.2
+ K3= {Ind}
+ K4=0.026
+ K5=0.000000925
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12877.75593
.ends 0603HL-561_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-561
* Inductance = 560nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0603HL-561_imp port1 port2 PARAMS: Cpar=0.347pF Ind=0.64uH
X1 port1 port2 Model1D PARAMS:
+ R1=35
+ R2=1.35
+ C= {Cpar}
+ K1=0.000005
+ K2=1.2
+ K3= {Ind}
+ K4=0.026
+ K5=0.000000925
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12877.75593
.ends 0603HL-561_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-681
* Inductance = 680nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-681_freq port1 port2 PARAMS: Cpar=0.44pF Ind=0.77uH
X1 port1 port2 Model1A PARAMS:
+ R1=25
+ R2=1.8
+ C= {Cpar}
+ K1=0.000155
+ K2=1.5
+ K3= {Ind}
+ K4=0.029
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17146.45723
.ends 0603HL-681_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-681
* Inductance = 680nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0603HL-681_imp port1 port2 PARAMS: Cpar=0.347pF Ind=0.77uH
X1 port1 port2 Model1D PARAMS:
+ R1=25
+ R2=1.8
+ C= {Cpar}
+ K1=0.000155
+ K2=1.5
+ K3= {Ind}
+ K4=0.029
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17146.45723
.ends 0603HL-681_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-821
* Inductance = 820nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-821_freq port1 port2 PARAMS: Cpar=0.4pF Ind=0.88uH
X1 port1 port2 Model1A PARAMS:
+ R1=35
+ R2=2.45
+ C= {Cpar}
+ K1=0.000005
+ K2=1.5
+ K3= {Ind}
+ K4=0.018
+ K5=0.0000016
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17365.48517
.ends 0603HL-821_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-821
* Inductance = 820nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0603HL-821_imp port1 port2 PARAMS: Cpar=0.35pF Ind=0.88uH
X1 port1 port2 Model1D PARAMS:
+ R1=35
+ R2=2.45
+ C= {Cpar}
+ K1=0.000005
+ K2=1.5
+ K3= {Ind}
+ K4=0.018
+ K5=0.0000016
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17365.48517
.ends 0603HL-821_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-600MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-102_freq port1 port2 PARAMS: Cpar=0.313pF Ind=1.05uH
X1 port1 port2 Model1A PARAMS:
+ R1=35
+ R2=2.8
+ C= {Cpar}
+ K1=0.000005
+ K2=1.4
+ K3= {Ind}
+ K4=0.007
+ K5=0.00015
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=18749.79013
.ends 0603HL-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-600MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0603HL-102_imp port1 port2 PARAMS: Cpar=0.291pF Ind=1.05uH
X1 port1 port2 Model1D PARAMS:
+ R1=35
+ R2=2.8
+ C= {Cpar}
+ K1=0.000005
+ K2=1.4
+ K3= {Ind}
+ K4=0.007
+ K5=0.00015
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=18749.79013
.ends 0603HL-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-122_freq port1 port2 PARAMS: Cpar=0.39pF Ind=1.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=25
+ R2=3.2
+ C= {Cpar}
+ K1=0.000005
+ K2=1.5
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000017
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=19341.63964
.ends 0603HL-122_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0603HL-122_imp port1 port2 PARAMS: Cpar=0.337pF Ind=1.3uH
X1 port1 port2 Model1D PARAMS:
+ R1=25
+ R2=3.2
+ C= {Cpar}
+ K1=0.000005
+ K2=1.5
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000017
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=19341.63964
.ends 0603HL-122_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-152_freq port1 port2 PARAMS: Cpar=1.08pF Ind=1.6uH
X1 port1 port2 Model1A PARAMS:
+ R1=40
+ R2=4.1
+ C= {Cpar}
+ K1=0.000005
+ K2=0.9
+ K3= {Ind}
+ K4=0.021
+ K5=0.000072
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7786.268699
.ends 0603HL-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0603HL-152_imp port1 port2 PARAMS: Cpar=0.951pF Ind=1.6uH
X1 port1 port2 Model1D PARAMS:
+ R1=40
+ R2=4.1
+ C= {Cpar}
+ K1=0.000005
+ K2=0.9
+ K3= {Ind}
+ K4=0.021
+ K5=0.000072
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7786.268699
.ends 0603HL-152_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-182
* Inductance = 1.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-182_freq port1 port2 PARAMS: Cpar=0.48pF Ind=1.9uH
X1 port1 port2 Model1A PARAMS:
+ R1=45
+ R2=5.3
+ C= {Cpar}
+ K1=0.000005
+ K2=1.5
+ K3= {Ind}
+ K4=0.02
+ K5=0.000036
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15892.25829
.ends 0603HL-182_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-182
* Inductance = 1.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0603HL-182_imp port1 port2 PARAMS: Cpar=0.436pF Ind=1.9uH
X1 port1 port2 Model1D PARAMS:
+ R1=45
+ R2=5.3
+ C= {Cpar}
+ K1=0.000005
+ K2=1.5
+ K3= {Ind}
+ K4=0.02
+ K5=0.000036
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15892.25829
.ends 0603HL-182_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-222_freq port1 port2 PARAMS: Cpar=0.58pF Ind=2.15uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=5.9
+ C= {Cpar}
+ K1=0.000005
+ K2=1.7
+ K3= {Ind}
+ K4=0.007
+ K5=0.0000004
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15932.94113
.ends 0603HL-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0603HL-222_imp port1 port2 PARAMS: Cpar=0.572pF Ind=2.15uH
X1 port1 port2 Model1D PARAMS:
+ R1=50
+ R2=5.9
+ C= {Cpar}
+ K1=0.000005
+ K2=1.7
+ K3= {Ind}
+ K4=0.007
+ K5=0.0000004
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15932.94113
.ends 0603HL-222_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-272
* Inductance = 2.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-272_freq port1 port2 PARAMS: Cpar=0.23pF Ind=2.75uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=7
+ C= {Cpar}
+ K1=0.000005
+ K2=2.7
+ K3= {Ind}
+ K4=0.02
+ K5=0.0000035
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=33053.58985
.ends 0603HL-272_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-272
* Inductance = 2.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0603HL-272_imp port1 port2 PARAMS: Cpar=0.219pF Ind=2.75uH
X1 port1 port2 Model1D PARAMS:
+ R1=50
+ R2=7
+ C= {Cpar}
+ K1=0.000005
+ K2=2.7
+ K3= {Ind}
+ K4=0.02
+ K5=0.0000035
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=33053.58985
.ends 0603HL-272_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-332_freq port1 port2 PARAMS: Cpar=0.32pF Ind=3.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=75
+ R2=9.1
+ C= {Cpar}
+ K1=0.000005
+ K2=2.6
+ K3= {Ind}
+ K4=0.02
+ K5=0.0000024
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=26207.48715
.ends 0603HL-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0603HL-332_imp port1 port2 PARAMS: Cpar=0.309pF Ind=3.3uH
X1 port1 port2 Model1D PARAMS:
+ R1=75
+ R2=9.1
+ C= {Cpar}
+ K1=0.000005
+ K2=2.6
+ K3= {Ind}
+ K4=0.02
+ K5=0.0000024
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=26207.48715
.ends 0603HL-332_imp

